US08580798B2
4-{4-[3-(6-trifluoromethyl-pyrimidin-4-yl)-ureido]-phenoxy}-pyridine-2-carboxylic acid methylamide
The title compound was prepared in the same manner as 4-{3-fluoro-4-[3-(6-trifluoromethylpyrimidin-4-yl)ureido]phenoxy}pyridine-2-carboxylic-acid methylamide, replacing 4-(4-amino-3-fluoro-phenoxy)pyridine-2-carboxylic acid methylamide for 4-(4-aminophenoxy)pyridine-2-carboxylic acid methylamide. LC-MS m/z 433.1 [M+H]+; TLC Rf=0.8 (EtOAc).

reactant | 4-{3-fluoro-4-[3-(6-trifluoromethylpyrimidin-4-yl)ureido]phenoxy}pyridine-2-carboxylic-acid methylamide | CNC(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)NC1=NC=NC(=C1)C(F)(F)F)F | C19H14F4N6O3
reactant | 4-(4-aminophenoxy)pyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)N | C13H13N3O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-{4-[3-(6-trifluoromethyl-pyrimidin-4-yl)-ureido]-phenoxy}-pyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)NC1=NC=NC(=C1)C(F)(F)F | C19H15F3N6O3
